US05196543
Step 3 [[2-(phenylmethyl)-1,3-dioxolane-2-yl]ethyl]-triphenylphosphonium bromide (code number 360372)
[2-(2-cyclohexyl-1,3-dioxolane-2-yl)ethyl]triphenylphosphonium bromide from 2-cyclohexyl-2-(2-bromoethyl)-1,3-dioxolane (ex. 27): Liq., IR (microcell) ν cm-1 : 2920-2850, 1440-1110;

reactant | [2-(2-cyclohexyl-1,3-dioxolane-2-yl)ethyl]triphenylphosphonium bromide | [Br-].C1(CCCCC1)C1(OCCO1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-cyclohexyl-2-(2-bromoethyl)-1,3-dioxolane | C1(CCCCC1)C1(OCCO1)CCBr | C11H19BrO2
product | [[2-(phenylmethyl)-1,3-dioxolane-2-yl]ethyl]-triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)CC1(OCCO1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H30O2P.BrH/c1-5-13-26(14-6-1)25-30(31-22-23-32-30)21-24-33(27-15-7-2-8-16-27,28-17-9-3-10-18-28)29-19-11-4-12-20-29;/h1-20H,21-25H2;1H/q+1;/p-1
